US08754075B2
2-Methyl-5-trifluoromethyl-2H-pyrazole-3-carboxylic acid [3-((4R,5R)-2-amino-5-fluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-4-yl)-4-fluoro-phenyl]-amide
The condensation of (4R,5R)-4-(5-amino-2-fluoro-phenyl)-5-fluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-2-ylamine (intermediate A8.2) and 2-methyl-5-trifluoromethyl-2H-pyrazole-3-carboxylic acid (CAS 128694-63-3) following procedure I yielded the title compound as a white solid. MS (ISP): m/z=418.3 [M+H]+.

reactant | (4R,5R)-4-(5-amino-2-fluoro-phenyl)-5-fluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-2-ylamine | NC=1C=CC(=C(C1)[C@]1(N=C(OC[C@@H]1F)N)C)F | C11H13F2N3O
reactant | 2-methyl-5-trifluoromethyl-2H-pyrazole-3-carboxylic acid | CN1N=C(C=C1C(=O)O)C(F)(F)F | C6H5F3N2O2
product | 2-Methyl-5-trifluoromethyl-2H-pyrazole-3-carboxylic acid [3-((4R,5R)-2-amino-5-fluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-4-yl)-4-fluoro-phenyl]-amide | NC=1OC[C@@H]([C@@](N1)(C)C=1C=C(C=CC1F)NC(=O)C=1N(N=C(C1)C(F)(F)F)C)F | C17H16F5N5O2
